US05608056
To a solution of thionyl chloride (6.05 g) in dichloromethane (70 ml) was added 2,6-lutidine (6.53 g) at 5° C. to 10° C. After the solution was stirred for 30 minutes at the same temperature, the solution of 1-{(2S,4R)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy)-pyrrolidin-2-yl}-1-(pyrimidin-5-yl)methanol (20.0 g) in dichloromethane (100 ml) was slowly dropped thereto below 10° C. After the reaction mixture was stirred for an hour below 10° C., it was stirred at room temperature for 2 hours, then thionyl chloride (6.05 g) and 2,6-lutidine (6.53 g) were added to the reaction mixture. After the reaction mixture was stirred another one hour, thionyl chloride (6.05 g) and 2,6-lutidine (6.53 g) were added to the reaction mixture. The reaction mixture was stirred at room temperature for 2 hours, then it was poured into ice-water (500 ml) and dichloromethane (400 ml) and adjusted to pH 5.1 with saturated aqueous sodium hydroxide below 15° C. The organic layer was separated and washed with water (400 ml) at pH 4.3 and brine (350 ml). The organic layer was dried over magnesiumsulfate and evaporated. The residue was subjected to column chromatography on silica gel (200 g) [solvent; hexane:ethyl acetate=5:1 to 2:1 to 1:1] to give 1-{(2S,4R)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy)-pyrrolidin-2-yl }-1-(pyrimidin-5-yl)-1-chloromethane (9.9 g) as an oil.

reactant | thionyl chloride | 6.05 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2,6-lutidine | 6.53 g | N1=C(C=CC=C1C)C | C7H9N
reactant | 1-{(2S,4R)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy)-pyrrolidin-2-yl}-1-(pyrimidin-5-yl)methanol | 20.0 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(O)C=1C=NC=NC1 | C19H31N3O4Si
reactant | thionyl chloride | 6.05 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2,6-lutidine | 6.53 g | N1=C(C=CC=C1C)C | C7H9N
reactant | thionyl chloride | 6.05 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2,6-lutidine | 6.53 g | N1=C(C=CC=C1C)C | C7H9N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 1-{(2S,4R)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy)-pyrrolidin-2-yl }-1-(pyrimidin-5-yl)-1-chloromethane | 9.9 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(Cl)C=1C=NC=NC1 | C19H30ClN3O3Si
